US07119205B2
2-chloro-4-hydroxy-3-(4-bromophenyl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To a suspension of NaH (1.33 g, 33.2 mmol, 60% dispersion in mineral oil) in tetrahydrofuran (60 mL) at room temperature was added a solution of 4-(4-bromophenyl)-5-chloro-2-(2-cyano-acetylamino)-thiophene-3-carboxylic acid ethyl ester (5.26 g, 12.3 mmol) in tetrahydrofuran (60 mL) over 15 minutes. The reaction was stirred at room temperature for 12 h, and 1 N HCl was added (15 mL). The reaction was then concentrated under reduced pressure, and the resulting solid was triturated with water (15 mL) and diethyl ether (20 mL) to provide the titled compound. MS (APCI) m/e 381 (M−H)−.

reactant | NaH | 33.2 mmol, 1.33 g | [H-].[Na+]
reactant | 4-(4-bromophenyl)-5-chloro-2-(2-cyano-acetylamino)-thiophene-3-carboxylic acid ethyl ester | 12.3 mmol, 5.26 g | C(C)OC(=O)C1=C(SC(=C1C1=CC=C(C=C1)Br)Cl)NC(CC#N)=O | C16H12BrClN2O3S
reactant | HCl | 1 N | Cl | ClH
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-hydroxy-3-(4-bromophenyl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | ClC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(C=C1)Br | C14H6BrClN2O2S
